US06919338B2
2-nitro-4-hydroxy-5-methoxybenzonitrile
2-nitro-4-benzyloxy-5-methoxybenzonitrile (3 g, 10.6 mmol) was treated with trifluoroacetic acid (30 ml) at reflux for 0.5 hour. The solvent was evaporated, the residue triturated with ether to give a yellow solid of title compound (1.27 g, 62%).

reactant | 2-nitro-4-benzyloxy-5-methoxybenzonitrile | 10.6 mmol, 3 g | [N+](=O)([O-])C1=C(C#N)C=C(C(=C1)OCC1=CC=CC=C1)OC | C15H12N2O4
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-nitro-4-hydroxy-5-methoxybenzonitrile | 1.27 g, 62% | [N+](=O)([O-])C1=C(C#N)C=C(C(=C1)O)OC | C8H6N2O4
